US08106232B2
a. 7-Amino-6-bromo-8,8-diethyl-5,6,7,8-tetrahydronaphthalen-2-ol hydrobromide
To a flask was added 7,7-diethyl-5-methoxy-1a,2,7,7a-tetrahydro-1H-1-aza-cyclopropa[b]naphthalene (268 g, 1.16 mol) and hydrogen bromide (1.97 L, 17.38 mol), followed by tetra-N-butylammonium bromide (38 g, 0.12 mol). The reaction mixture was heated at 100° C. overnight with stirring, cooled to room temperature and then poured into stirred ethyl acetate (2.5 L). The product was isolated by filtration, the filter cake was washed with ethyl acetate (2×200 mL) and dried to yield crude product (370 g) as a purplish solid. The crude product was suspended in ethanol (1.50 L) then heated at 80° C. for 30 min. The resulting slurry was cooled to room temperature over 1 h, and filtered. The flask and filter cake with were washed with ethanol (2×100 mL) and then with ethyl acetate (100 mL) and dried overnight to yield the title compound as a solid. (275 g, ˜96% purity).

reactant | 7,7-diethyl-5-methoxy-1a,2,7,7a-tetrahydro-1H-1-aza-cyclopropa[b]naphthalene | 1.16 mol, 268 g | C(C)C1(C2C(CC3=CC=C(C=C13)OC)N2)CC | C15H21NO
reactant | hydrogen bromide | 17.38 mol, 1.97 L | Br | BrH
reactant | ethyl acetate | 2.5 L | C(C)(=O)OCC | C4H8O2
catalyst | tetra-N-butylammonium bromide | 0.12 mol, 38 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | ethanol | 1.50 L | C(C)O | C2H6O
product | 7-Amino-6-bromo-8,8-diethyl-5,6,7,8-tetrahydronaphthalen-2-ol hydrobromide | Br.NC1C(CC=2C=CC(=CC2C1(CC)CC)O)Br | InChI=1S/C14H20BrNO.BrH/c1-3-14(4-2)11-8-10(17)6-5-9(11)7-12(15)13(14)16;/h5-6,8,12-13,17H,3-4,7,16H2,1-2H3;1H
